** Generated for: hspiceD
** Generated on: Jan  5 20:29:01 2020
** Design library name: telescopic_ota_testbench
** Design cell name: telescopic_ota_ac_testbench_cmrr
** Design view name: schematic
.GLOBAL vss! vdd!
.PARAM cload=357f ibias_r=40u vcm_r=0.5 vdd_r=1 wireopt=3


.AC DEC 10 10.0 100e9

.TEMP 25.0
.OPTION
+    ARTIST=2
+    INGOLD=2
+    PARHIER=LOCAL
+    PSF=2


** Library name:12nm_OTA_schematic
** Cell name: 2019_09_20_telescopic_ota_w_bias1
** View name: schematic
.subckt12nm_OTA_schematic_2019_09_20_telescopic_ota_w_bias1_schematic vdd vss vinn vinp vout ibiasn inh_hsup inh_lsup
xn10 net020 ibiasn vss inh_lsup nmos m=1 l=14e-9 nfin=6 nf=2 
xn9 vbiasn vbiasn net018 inh_lsup nmos m=1 l=14e-9 nfin=25 nf=2 
xn8 net018 vbiasn vss inh_lsup nmos m=1 l=14e-9 nfin=2 nf=1 
xn6 vbiasp ibiasn vss inh_lsup nmos m=1 l=14e-9 nfin=12 nf=2 
xn5 vout vbiasn net19 inh_lsup nmos m=1 l=14e-9 nfin=25 nf=2 
xn4 net030 vbiasn net20 inh_lsup nmos m=1 l=14e-9 nfin=25 nf=2 
xn3 ibiasn ibiasn vss inh_lsup nmos m=1 l=14e-9 nfin=5 nf=2 
xn2 net025 ibiasn vss inh_lsup nmos m=1 l=14e-9 nfin=40 nf=2 
xn1 net19 vinn net025 inh_lsup nmos m=1 l=14e-9 nfin=40 nf=2 
xn0 net20 vinp net025 inh_lsup nmos m=1 l=14e-9 nfin=40 nf=2 
xp9 net020 net020 vdd inh_hsup pmos m=1 l=14e-9 nfin=8 nf=2 
xp7 net010 net020 vdd inh_hsup pmos m=1 l=14e-9 nfin=15 nf=2 
xp8 vbiasn vbiasp net010 inh_hsup pmos m=1 l=14e-9 nfin=10 nf=2 
xp5 net015 vbiasp vdd inh_hsup pmos m=1 l=14e-9 nfin=2 nf=2 
xp4 vbiasp vbiasp net015 inh_hsup pmos m=1 l=14e-9 nfin=5 nf=2 
xp3 net18 net030 vdd inh_hsup pmos m=1 l=14e-9 nfin=15 nf=2 
xp2 net21 net030 vdd inh_hsup pmos m=1 l=14e-9 nfin=15 nf=2 
xp1 vout vbiasp net18 inh_hsup pmos m=1 l=14e-9 nfin=10 nf=2 
xp0 net030 vbiasp net21 inh_hsup pmos m=1 l=14e-9 nfin=10 nf=2 
.ends12nm_OTA_schematic_2019_09_20_telescopic_ota_w_bias1_schematic
** End of subcircuit definition.

** Library name:12_telescopic_ota_testbench
** Cell name: telescopic_ota_ac_testbench_cmrr
** View name: schematic
xi0 net02 0 vinn vinp vout net06 vdd! vss!12nm_OTA_schematic_2019_09_20_telescopic_ota_w_bias1_schematic
v7 vinp net07 DC=100e-6
v4 net02 0 DC=vdd_r
v6 vcm 0 DC=vcm_r
v0 vinn vcm AC 500e-3 0 SIN 0 0
v1 net07 vcm AC 500e-3 0 SIN 0 0
c0 vout 0 cload
i5 net02 net06 DC=ibias_r
.END
